US07799798B2
D. Synthesis of 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-b]pyridin-2-one
Following the procedure as described in PREPARATION 1D, and making non-critical variations using 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-b]pyridin-2-one to replace 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one, the title compound was obtained (50%): MS (ES+) m/z 341.1 (M+1).

reactant | 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-b]pyridin-2-one | OC1(C(N(C=2C1=NC=CC2)CCCCC)=O)C2=CC1=C(OCO1)C=C2O | C19H20N2O5
reactant | 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | OC1(C(N(C2=NC=CC=C21)CCCCC)=O)C2=CC1=C(OCO1)C=C2O | C19H20N2O5
product | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-b]pyridin-2-one | OC=1C(=CC2=C(OCO2)C1)C1C(N(C=2C1=NC=CC2)CCCCC)=O | C19H20N2O4
